US08026257B2
(±)-7-(1-Bromoethyl)-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole.
To a solution of (±)-1-(5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol (444 mg, 1.23 mmol) and carbon tetrabromide (613 mg, 1.85 mmol) in tetrahydrofuran (5 mL) at 0° C. was added triphenylphosphine (485 mg, 1.85 mmol). The resulting solution was stirred at room temperature for 30 min. The reaction was diluted with several volumes of pentane and filtered to remove undissolved solids. The organics were concentrated and purified by column chromatography (4%→6% EtOAc/Hex) to give 284 mg (55%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ 8.27 (s, 1H), 8.00 (s, 1H), 7.58 (s, 1H), 5.90 (q, J=7.0 Hz, 1H), 5.77 (qAB, JAB=10.4 Hz, 2H), 3.68 (m, 2H), 2.23 (d, J=7.0 Hz, 3H), 0.95 (m, 2H), −0.03 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 146.4, 134.2, 124.9, 124.7 (q, J=32 Hz), 124.6 (q, J=273 Hz), 121.6, 119.7 (q, J=4.8 Hz), 119.3 (q, J=2.9 Hz), 82.2, 68.1, 43.7, 25.5, 18.0, −1.4.

reactant | (±)-1-(5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol | 1.23 mmol, 444 mg | FC(C1=CC2=CN(N=C2C(=C1)C(C)O)COCC[Si](C)(C)C)(F)F | C16H23F3N2O2Si
reactant | carbon tetrabromide | 1.85 mmol, 613 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.85 mmol, 485 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | (±)-7-(1-Bromoethyl)-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole | BrC(C)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)C(F)(F)F | C16H22BrF3N2OSi
